data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(F)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(F)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(F)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(F)C(OC)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1C.[Pd]", "products": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1C"}, {"reactants": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1C", "products": "COc1ccc2c(c1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc2c(c1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc2c(c1C)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)CF)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CF)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CF)c([Si](C)(C)CF)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(C)cc(NN=CCc2ccccc2)cc1C.Cl[Zn]Cl", "products": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C"}, {"reactants": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C.[H+]"}, {"reactants": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2C)C(=N)C=C1", "products": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C"}, {"reactants": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C", "products": "COc1c(C)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(C)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(C)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(C)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(C)cc2c(c1C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(C)cc2c(c1C)C(c1ccccc1)C=[NH+]2", "products": "COc1c(C)cc2[nH]cc(-c3ccccc3)c2c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Cl)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2)C(=N)C=C1", "products": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(Cl)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(Cl)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)c(OC)c1", "products": "COc1ccc([C]([O])C2C3CCC2C3)c(OC)c1"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)c(OC)c1", "products": "COc1ccc(C([O])=CC2C[CH]CC2)c(OC)c1"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)c(OC)c1", "products": "COc1ccc(C(O)=CC2C=CCC2)c(OC)c1"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)c(OC)c1", "products": "COc1ccc(C(=O)CC2C=CCC2)c(OC)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C", "products": "Cc1c2c(c(F)c([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
